US05242904
Boc-(D)Phe-Pro-OH was produced by first preparing the dipeptide benzyl ester and then removing the ester by catalytic hydrogenation. Boc-(D)Phe-OH (10.0 g, 37.7 mmoles) was dissolved in 50 mL of THF and N-methylmorpholine (4.14 mL, 37.7 mmoles) was added. The solution was cooled to -20° and isobutyl chloroformate (4.90 mL, 37.7 mmoles) was added. After 5 min, H-Pro-OBzl.HCl (9.11 g, 37.7 mmoles), dissolved in 50 mL of chloroform and cooled to -20°, was added. Triethylamine (5.25 mL, 37.7 mmoles) was added and the mixture was stirred for 1 h at -20° and 2 h at room temperature. The reaction mixture was filtered and the filtrate evaporated. The residue was dissolved in ethyl acetate and was washed with 0.2N hydrochloric acid, 5% aqueous sodium bicarbonate, and saturated aqueous sodium chloride. The organic phase was dried over anhydrous sodium sulfate, filtered, and evaporated to yield 15.2 g of Boc-(D)Phe-Pro-OBzl as an oil. The benzyl ester (15.2 g) was dissolved in 100 mL of methanol and it was hydrogenated at an initial pressure of 40 psi on a Parr apparatus in the presence of 0.5 g of 10% Pd/C. The reaction solution was filtered through Celite™ and evaporated to yield a solid. This solid material was isolated and was washed with ethyl acetate and then by ether to yield 10.0 g of the desired product (mp 176.5°-177°).

reactant | Boc-(D)Phe-OH | 37.7 mmoles, 10.0 g | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | N-methylmorpholine | 37.7 mmoles, 4.14 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 37.7 mmoles, 4.90 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | H-Pro-OBzl.HCl | 37.7 mmoles, 9.11 g | N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1.Cl
reactant | Triethylamine | 37.7 mmoles, 5.25 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | Boc-(D)Phe-Pro-OBzl | 15.2 g | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H32N2O5
